US06420364B1
N-(4-Cyano-1-methyl-piperidin-4-yl)-2-(4-cyano-pyrimidin-2-ylamino)-3-cyclohexyl-propionamide (Method G)
2-Chloro-4-pyrimidinecarbonitrile (0.3 mmol, Daves, G. D. Jr., O'Brien, D. E., Cheng, C. C. J. Het. Chem, 1964, 1, 130) and 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide (0.7 mmol) were dissolved in acetonitrile (10 mL) containing N,N-diisopropylethylamine (0.6 mmol). The solution was heated to a gentle reflux for 17 h. The volatiles were evaporated and the residue was subjected to chromatography (silica gel, eluant=EtOAc then MeOH). The methanolic fraction was concentrated to a colorless solid which was rechromatographed (10% MeOH/EtOAc) to afford the title compound as a colorless solid (52%). The material was recrystallized from dichloromethane/petroleum ether.

reactant | 2-Chloro-4-pyrimidinecarbonitrile | 0.3 mmol | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide | 0.7 mmol | NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1 | C16H28N4O
reactant | N,N-diisopropylethylamine | 0.6 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-2-(4-cyano-pyrimidin-2-ylamino)-3-cyclohexyl-propionamide | 52% | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC1=NC=CC(=N1)C#N)=O | C21H29N7O
